US05965743
2.9 g of 4-(4-phenylbutyloxy)benzyl alcohol were dissolved in 30 ml of chloroform, and 1.6 g of thionyl chloride were further fed dropwise to the resultant solution. The solution was then stirred for 1 hour at room temperature. After completed the reaction, the solution reacted was poured into ice-water and extracted with chloroform. The organic layer resulted was dried with anhydrous magnesium sulfate, and the solvent used was removed by distillation under reduced pressure, thereby affording 3.2 g of 4-(4-phenylbutyloxy)benzyl chloride.

reactant | 4-(4-phenylbutyloxy)benzyl alcohol | 2.9 g | C1(=CC=CC=C1)CCCCOC1=CC=C(CO)C=C1 | C17H20O2
reactant | thionyl chloride | 1.6 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-phenylbutyloxy)benzyl chloride | 3.2 g | C1(=CC=CC=C1)CCCCOC1=CC=C(CCl)C=C1 | C17H19ClO
